US08008498B2
6-(2-Methoxy-4-methoxycarbonyloxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 3-1)
6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1, 20.0 mg, 0.0465 mmol) was dissolved in anhydrous methylene dichloride (1.0 mL), triethylamine (13 μL, 0.093 mmol) and methyl chlorocarbonate (3.6 μL, 0.047 mmol) were added thereto under ice cooling, and then the mixture was stirred for 10 minutes. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (12.9 mg) as a colorless amorphous product. (Yield 57%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C27H30N2O3
reactant | triethylamine | 0.093 mmol, 13 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 0.047 mmol, 3.6 μL | C(OC)(=O)Cl | C2H3ClO2
solvent | methylene dichloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-Methoxy-4-methoxycarbonyloxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 12.9 mg, Yield 57% | COC1=C(C=CC(=C1)OC(=O)OC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC | C29H32N2O5
